US04129700
1,3-Dimethyl-3-(t-butylperoxy)butyl n-butyl carbonate (C-I)
To a solution of 8.1 g. (0.11 mole) of n-butyl alcohol and 7.9 g. (0.1 mole) of pyridine in diethyl ether cooled to 10°±1° C was added a solution of 27.0 g. (0.1 mole) 1,3-dimethyl-3-(t-butylperoxy)butyl chloroformate. The reaction temperature was controlled at 15°±1° C during the addition.

reactant | n-butyl alcohol | 0.11 mole | C(CCC)O | C4H10O
reactant | pyridine | 0.1 mole | N1=CC=CC=C1 | C5H5N
reactant | 1,3-dimethyl-3-(t-butylperoxy)butyl chloroformate | 0.1 mole | ClC(=O)OC(CC(C)(OOC(C)(C)C)C)C | C11H21ClO4
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,3-Dimethyl-3-(t-butylperoxy)butyl n-butyl carbonate | C(OC(CC(C)(OOC(C)(C)C)C)C)(OCCCC)=O | C15H30O5
